US08895583B2
Step G. 2-(4-Methoxycyclohex-1-en-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
To a flask of 4-methoxycyclohexanone (2 g, 15.60 mmol) in THF (100 mL) cooled to −78° C. was added LHMDS (17.2 mL of 1 M LHMDS in THF, 17.2 mmol). The reaction mixture was aged for 5 min., then N-(5-chloropyridin-2-yl)-1,1,1-trifluoro-N—[(trifluoromethyl)sulfonyl]methanesulfonamide (6.13 g, 15.60 mmol) was added and the reaction mixture was allowed to slowly warm to ambient temperature overnight. The reaction mixture was then concentrated and purified by flash chromatography on silica gel (100% hexanes, then 0 to 15% DCM in hexanes, then 15% to 25% DCM in hexanes). This material was charged to a round bottomed flask with bis(pinacolato)diboron (2.80 g, 11.02 mmol), potassium acetate (3.15 g, 32.10 mmol), and 1,1′-bis(di t-butylphosphino)ferrocene palladium dichloride (0.153 g, 0.276 mmol). The flask was purged with nitrogen. Anhydrous 1,4-dioxane (50 mL) was added, and the resulting suspension was degassed via nitrogen sparge. The mixture was then placed in a pre-heated oil bath (80° C.), and was held at this temperature for 20 h, whereupon it was allowed to cool to ambient temperature, then the reaction mixture was diluted with hexanes (50 mL) and passed through a silica gel pad eluted by dichloromethane. The elutant was then concentrated and purified by flash chromatography on silica gel (15 to 35% DCM in hexanes, then 10 to 20% EtOAc in hexanes) to provide the title compound: 1H NMR (500 MHz, CD2Cl2) 8 (ppm) 6.42 (s, 1 H),3.45 (m, 1 H),3.36 (s, 3 H),2.46 (m, 1 H),2.28 (m, 1 H),2.08 (m, 2 H),1.91 (m, 1 H), 1.54 (m, 1 H),1.26 (s, 12 H).

reactant | 4-methoxycyclohexanone | 15.60 mmol, 2 g | COC1CCC(CC1)=O | C7H12O2
reactant | LHMDS | 17.2 mmol, 1 M, 17.2 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | N-(5-chloropyridin-2-yl)-1,1,1-trifluoro-N—[(trifluoromethyl)sulfonyl]methanesulfonamide | 15.60 mmol, 6.13 g | ClC=1C=CC(=NC1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C7H3ClF6N2O4S2
reactant | bis(pinacolato)diboron | 11.02 mmol, 2.80 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 32.10 mmol, 3.15 g | C(C)(=O)[O-].[K+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | 1,1′-bis(di t-butylphosphino)ferrocene palladium dichloride | 0.276 mmol, 0.153 g | [Pd](Cl)Cl.C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
product | 2-(4-Methoxycyclohex-1-en-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | COC1CC=C(CC1)B1OC(C(O1)(C)C)(C)C | C13H23BO3
